US06017919
3-(1,1-Dimethylheptyl)-4-methoxybenzaldehyde (13 g, 49.5 mmol), t-butanol (65 ml) and 2-methyl-2-butene (35.2 ml, 332 mmol) were mixed, and to this solution was added dropwise a solution prepared by mixing sodium chlorite (7.37 g, 64.4 mmol), sodium dihydrogenphosphate (7.73 g, 64.4 mmol) and water (50 ml). The mixture was stirred at room temperature for 12 hours. A 1N sodium hydroxide solution (100 ml) was added, and t-butanol was evaporated under reduced pressure. Conc. hydrochloric acid was added to make the mixture acidic. The aqueous layer was extracted 3 times with ethyl acetate (150 ml). The organic layers were combined, washed with saturated brine (100 ml), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (n-hexane/ethyl acetate=5/1-2/1) to give 3-(1,1-dimethylheptyl)-4-methoxybenzoic acid (10.7 g, 77%) as colorless crystals.

reactant | 3-(1,1-Dimethylheptyl)-4-methoxybenzaldehyde | 49.5 mmol, 13 g | CC(CCCCCC)(C)C=1C=C(C=O)C=CC1OC | C17H26O2
reactant | 2-methyl-2-butene | 332 mmol, 35.2 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 64.4 mmol, 7.37 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 64.4 mmol, 7.73 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | t-butanol | 65 ml | C(C)(C)(C)O | C4H10O
product | 3-(1,1-dimethylheptyl)-4-methoxybenzoic acid | 10.7 g, 77% | CC(CCCCCC)(C)C=1C=C(C(=O)O)C=CC1OC | C17H26O3
